US09062048B2
Step D: 4-(benzyloxy)-6-(trifluoromethyl)cinnoline
Into a 500 mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed CuI (6.4 g, 33.68 mmol, 1.20 equiv), a solution of KF (1.97 g, 33.97 mmol, 1.20 equiv) in 1-methylpyrrolidin-2-one (250 mL), TMS-CF3 (4.828 g, 34.00 mmol, 1.20 equiv) and 4-(benzyloxy)-6-iodocinnoline (as prepared in the previous step, 10.2 g, 28.18 mmol, 1.00 equiv). The reaction mixture was stirred for 24 h at 50° C. in an oil bath. The reaction was then quenched by the addition of 30 mL of ammonia and 300 mL H2O. The resulting solution was extracted with 3×300 mL of ether, and the combined ether portions was washed with 2×200 mL of brine, dried (Na2SO4), and concentrated under vacuum. The title compound was obtained as a brown solid.

reactant | KF | 33.97 mmol, 1.97 g, 1.20 equiv | [F-].[K+]
reactant | TMS-CF3 | 34.00 mmol, 4.828 g, 1.20 equiv | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | 4-(benzyloxy)-6-iodocinnoline | C(C1=CC=CC=C1)OC1=CN=NC2=CC=C(C=C12)I | C15H11IN2O
solvent | 1-methylpyrrolidin-2-one | 250 mL | CN1C(CCC1)=O | C5H9NO
catalyst | CuI | 33.68 mmol, 6.4 g, 1.20 equiv | [Cu]I
product | 4-(benzyloxy)-6-(trifluoromethyl)cinnoline | C(C1=CC=CC=C1)OC1=CN=NC2=CC=C(C=C12)C(F)(F)F | C16H11F3N2O
